US08304371B2
(4{[(trimethylsilyl)methyl]carbamoyl}naphthalen-1-yl)methyl acetate (2.0 g) and Lawesson reagent (2.4 g) were suspended with toluene (30 ml). The mixture was heated to reflux for 2 hours. The reaction mixture was returned to room temperature, washed with water and a saturated aqueous brine, subsequently dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, and the resulting mixture was purified by silica gel chromatography, to obtain (4{[(trimethylsilyl)methyl]carbamothioyl}naphthalen-1-yl)methyl acetate (1.2 g).

reactant | (4{[(trimethylsilyl)methyl]carbamoyl}naphthalen-1-yl)methyl acetate | 2.0 g | C(C)(=O)OCC1=CC=C(C2=CC=CC=C12)C(NC[Si](C)(C)C)=O | C18H23NO3Si
reactant | Lawesson reagent | 2.4 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (4{[(trimethylsilyl)methyl]carbamothioyl}naphthalen-1-yl)methyl acetate | 1.2 g | C(C)(=O)OCC1=CC=C(C2=CC=CC=C12)C(NC[Si](C)(C)C)=S | C18H23NO2SSi
